US09403768B2
Phosphorus oxychloride (74.0 mg, 0.045 mL, 483 μmol, Eq: 2.2) was added dropwise to a solution of 1-(tert-butoxycarbonyl)-3,3-dimethylindoline-2-carboxylic acid (64 mg, 220 μmol, Eq: 1.00) and 2,6-difluoroaniline (54.0 mg, 0.045 mL, 418 μmol, Eq: 1.9) in pyridine (1 mL) and the resulting dark yellow suspension stirred at rt overnight. The reaction mixture was diluted with water (10 mL) and extracted with EtOAc (2×10 mL). The combined organic layers were washed with water (10 mL), 0.1 M aqueous HCl (10 mL) and brine (5 mL) and concentrated in vacuo to give tert-butyl 2-(2,6-difluorophenylcarbamoyl)-3,3-dimethylindoline-1-carboxylate as a white solid (42 mg).

reactant | Phosphorus oxychloride | 483 μmol, 0.045 mL, 74.0 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(tert-butoxycarbonyl)-3,3-dimethylindoline-2-carboxylic acid | 220 μmol, 64 mg | C(C)(C)(C)OC(=O)N1C(C(C2=CC=CC=C12)(C)C)C(=O)O | C16H21NO4
reactant | 2,6-difluoroaniline | 418 μmol, 0.045 mL, 54.0 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mL | O | H2O
product | tert-butyl 2-(2,6-difluorophenylcarbamoyl)-3,3-dimethylindoline-1-carboxylate | 42 mg | FC1=C(C(=CC=C1)F)NC(=O)C1N(C2=CC=CC=C2C1(C)C)C(=O)OC(C)(C)C | C22H24F2N2O3
